US06335360B1
1-(N-t-Butoxycarbonyl-2(S)-aminobutyryl)-5-chloroindoline-2(S)-carboxylic acid (2,2,2-trifluoroethyl)amide
1-(N-t-Butoxycarbonyl-2(S)-aminobutyryl)-5-chloroindoline-2(S)-carboxylic acid (0.192 g, 0.5 mmol) and 2,2,2-trifluoroethylamine hydrochloride (0.205 g, 1.5 mmol) were dissolved in dried dichloromethane (5 ml) under nitrogen at 0° C., and triethylamine (0.63 ml, 4.5 mmol) was added followed by bis(2-oxo-3-oxazolidinyl)phosphinic chloride (0.382 g, 1.5 mmol). The temperature was allowed to rise to room temperature and the mixture was stirred at room temperature for 24 hours, then filtered. The filtrate was concentrated under vacuum to give a brown solid which was columned on silica gel using 7:3 petroleum spirit: ethyl acetate as eluent to provide a white solid.

reactant | 1-(N-t-Butoxycarbonyl-2(S)-aminobutyryl)-5-chloroindoline-2(S)-carboxylic acid | 0.5 mmol, 0.192 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@@H](CC2=CC(=CC=C12)Cl)C(=O)O)CC | C18H23ClN2O5
reactant | 2,2,2-trifluoroethylamine hydrochloride | 1.5 mmol, 0.205 g | Cl.FC(CN)(F)F
reactant | triethylamine | 4.5 mmol, 0.63 ml | C(C)N(CC)CC | C6H15N
reactant | bis(2-oxo-3-oxazolidinyl)phosphinic chloride | 1.5 mmol, 0.382 g | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(N-t-Butoxycarbonyl-2(S)-aminobutyryl)-5-chloroindoline-2(S)-carboxylic acid (2,2,2-trifluoroethyl)amide | FC(CNC(=O)[C@H]1N(C2=CC=C(C=C2C1)Cl)C([C@H](CC)NC(=O)OC(C)(C)C)=O)(F)F | C20H25ClF3N3O4
